US05491148
Proceeding as in Example 1, Method B, but replacing methyl 3-methoxy-2-methylbenzoate with ethyl 2-ethyl-3-methylbenzoate and (S)-3-amino-1-azabicyclo[2.2.2]octane with (RS)-3-amino-1-azabicyclo[2.2.2]octane gave (RS)-N-(1-azabicyclo[2.2.2]oct-3-yl)-2-ethyl-3-methylbenzamide, m.p. 125° C.

reactant | ethyl 2-ethyl-3-methylbenzoate | C(C)C1=C(C(=O)OCC)C=CC=C1C | C12H16O2
reactant | (S)-3-amino-1-azabicyclo[2.2.2]octane | N[C@@H]1CN2CCC1CC2 | C7H14N2
reactant | (RS)-3-amino-1-azabicyclo[2.2.2]octane | NC1CN2CCC1CC2 | C7H14N2
product | (RS)-N-(1-azabicyclo[2.2.2]oct-3-yl)-2-ethyl-3-methylbenzamide | N12CC(C(CC1)CC2)NC(C2=C(C(=CC=C2)C)CC)=O | C17H24N2O
